US04684640
Sodium 3-(4-methylsulphinylphenoxy)-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate
A mixture of a solution of 70 mg of 4-nitrobenzyl 3-(4-methylsulphinylphenoxy)-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate in dioxan and 13 mg of sodium bicarbonate in water, and 10% palladium/charcoal was hydrogenated at 50 psi at 25° for 60 minutes. Then, the mixture was filtered through Gelite, and lyophilized to yield 58 mg of the title compound as a pale yellow crystalline solid.

reactant | 4-nitrobenzyl 3-(4-methylsulphinylphenoxy)-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | 70 mg | CS(=O)C1=CC=C(OC2=C(N3C(CC3S2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C20H16N2O7S2
reactant | sodium bicarbonate | 13 mg | C([O-])(O)=O.[Na+]
solvent | dioxan | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | palladium/charcoal | [Pd] | Pd
product | Sodium 3-(4-methylsulphinylphenoxy)-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | 58 mg | CS(=O)C1=CC=C(OC2=C(N3C(CC3S2)=O)C(=O)[O-])C=C1.[Na+] | InChI=1S/C13H11NO5S2.Na/c1-21(18)8-4-2-7(3-5-8)19-13-11(12(16)17)14-9(15)6-10(14)20-13;/h2-5,10H,6H2,1H3,(H,16,17);/q;+1/p-1
